US07179804B2
[1-(3,5-Bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-imidazol-4-yl]-[5-(2-chloro-phenyl)-3-hydroxymethyl-isoxazol-4-yl]-methanone
Dissolve [1-(3,5-Bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-imidazol-4-yl]-[5-(2-chloro-phenyl)-3-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-4-yl]-methanone (0.136 g, 0.20 mmol) in THF (1.5 mL), add acetic acid (1.5 mL) and H2O (0.5 mL). Attach a reflux condenser and stir 20 hours in a 60° C. oil bath. Concentrate under vacuum, neutralize with saturated aqueous NaHCO3, and extract with EtOAc. Dry over MgSO4, filter through paper, and concentrate under vacuum. Recrystallize in ether/hexane (1:10) to give the title compound: MS (ES) 607.1 (M+1), 1H NMR (CDCl3) δ 8.69 (br s, 1H), 8.58 (br s, 1H), 7.82 (s, 1H), 7.64 (m, 2H), 7.44–7.28 (m, 5H), 7.23 (s, 2H), 5.14 (s, 2H), 4.76 (s, 2H).

reactant | [1-(3,5-Bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-imidazol-4-yl]-[5-(2-chloro-phenyl)-3-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-4-yl]-methanone | 0.20 mmol, 0.136 g | FC(C=1C=C(CN2C=NC(=C2C=2C=NC=CC2)C(=O)C=2C(=NOC2C2=C(C=CC=C2)Cl)COC2OCCCC2)C=C(C1)C(F)(F)F)(F)F | C33H25ClF6N4O4
reactant | acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
reactant | H2O | 0.5 mL | O | H2O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | [1-(3,5-Bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-imidazol-4-yl]-[5-(2-chloro-phenyl)-3-hydroxymethyl-isoxazol-4-yl]-methanone | FC(C=1C=C(CN2C=NC(=C2C=2C=NC=CC2)C(=O)C=2C(=NOC2C2=C(C=CC=C2)Cl)CO)C=C(C1)C(F)(F)F)(F)F | C28H17ClF6N4O3
